US05217866
6.8 Preparation of guanine pyrrolidone
The chloropurine pyrrolidone (1 mmol) from the previous paragraph is dissolved in diglyme (10 ml) and 25% aqueous trimethylamine (2 ml). The solution is stirred at rt for 5 h, water (10 ml) is added, and the mixture concentrated to 10 ml under reduced pressure. Acetic acid (2 ml) is added, and the mixture was evaporated under reduced pressure to an oil. The residue which contains trimethylammonium acetate is used directly for the next step.

reactant | chloropurine pyrrolidone | 1 mmol | N1C(CCC1)=O.ClC1=NC=C2NC=NC2=N1
reactant | water | 10 ml | O | H2O
solvent | diglyme | 10 ml | COCCOCCOC | C6H14O3
solvent | trimethylamine | 2 ml | CN(C)C | C3H9N
product | guanine pyrrolidone | N1C(CCC1)=O.N1C(N)=NC=2N=CNC2C1=O | InChI=1S/C5H5N5O.C4H7NO/c6-5-9-3-2(4(11)10-5)7-1-8-3;6-4-2-1-3-5-4/h1H,(H4,6,7,8,9,10,11);1-3H2,(H,5,6)
